US08138177B2
Step 1. E,Z mixture of N-[(1S)-1-[({[1-aminoethylidene]amino}oxy)carbonyl]-2,2-dimethylpropyl]-3-[2-(4-morpholinyl)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide
To a solution of N-({3-[2-(4-morpholinyl)ethyl]-oxo-2,3-dihydro-1H-benzimidazol-1-yl}carbonyl)-L-tert-leucine (prepared according to the procedure described in step 1 of example 3 from methyl L-tert-leucinate hydrochloride) (0.18 g, 0.45 mmol) in DMF (1 mL) were added a solution of N-hydroxyethanimidamide (37 mg, 0.50 mmol, Hamze, A.; Hernandez, J.-F.; Fulcrand, P.; Martinez, J. J. Org. Chem. 2003, 68, 7316-7321.) in DMF (1 mL), triethylamine (0.26 mL, 1.8 mmol), HOBt (83 mg, 0.54 mmol) and WSC (0.10 g, 0.54 mmol) at rt. After 9 h, to this mixture were added N-hydroxyethanimidamide (20 mg, 0.26 mmol), triethylamine (0.10 mL, 0.70 mmol), HOBt (10 mg, 0.06 mmol) and WSC (20 mg, 0.10 mmol). After 13 h, the reaction was quenched by addition of sat. aq. sodium bicarbonate (10 mL) and extracted with ethyl acetate (20 mL×2). The combined organic layers were washed with water (10 mL×2), brine (20 mL) and dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with dichloromethane/methanol (10/1) to afford 0.12 g (57%) of the title compound.

reactant | N-({3-[2-(4-morpholinyl)ethyl]-oxo-2,3-dihydro-1H-benzimidazol-1-yl}carbonyl)-L-tert-leucine | N1(CCOCC1)CCN1C(N(C2=C1C=CC=C2)C(=O)N[C@@H](C(C)(C)C)C(=O)O)=O | C20H28N4O5
reactant | methyl L-tert-leucinate hydrochloride | Cl.N[C@@H](C(C)(C)C)C(=O)OC
reactant | N-hydroxyethanimidamide | ONC(C)=N | C2H6N2O
reactant | triethylamine | 1.8 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.54 mmol, 83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.54 mmol, 0.10 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-hydroxyethanimidamide | 0.26 mmol, 20 mg | ONC(C)=N | C2H6N2O
reactant | triethylamine | 0.70 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.06 mmol, 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 0.10 mmol, 20 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[(1S)-1-[({[1-aminoethylidene]amino}oxy)carbonyl]-2,2-dimethylpropyl]-3-[2-(4-morpholinyl)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide | 0.12 g, 57% | NC(C)=NOC(=O)[C@H](C(C)(C)C)NC(=O)N1C(N(C2=C1C=CC=C2)CCN2CCOCC2)=O | C22H32N6O5
